US07968581B2
Step 1: 1-(4-Fluorophenyl)-2-hydroxyethanone
2 g of 2-bromo-1-(4-fluorophenyl)ethanone, and 6 eq of sodium formate in 15 mL of Ethanol/Water are irradiated under microwave for 5 min at 150° C., 11 bars. After filtration and evaporation of ethanol, water is added. The expected product is isolated by filtration

reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 2 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | sodium formate | 6 eq | C(=O)[O-].[Na+]
solvent | Ethanol Water | 15 mL | C(C)O.O
product | 1-(4-Fluorophenyl)-2-hydroxyethanone | FC1=CC=C(C=C1)C(CO)=O | C8H7FO2
